US07049310B2
b) 4-Fluoro-1-methyl-1H-indole-3-carboxaldehyde
According to the procedure of Preparation 9 (a), except substituting 4-fluoro-1H-indole-3-carboxaldehyde (0.41 g, 2.5 mmole) for the ethyl-indole-2-carboxylate, the title compound (0.24 g, 54%) was prepared as a viscous oil: MS (ES) m/e 178 (M+H)+.

reactant | 4-fluoro-1H-indole-3-carboxaldehyde | 2.5 mmole, 0.41 g | FC1=C2C(=CNC2=CC=C1)C=O | C9H6FNO
reactant | ethyl-indole-2-carboxylate | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
product | 4-Fluoro-1-methyl-1H-indole-3-carboxaldehyde | 0.24 g, 54% | FC1=C2C(=CN(C2=CC=C1)C)C=O | C10H8FNO
